US08357706B2
Prepared using General Procedure 1. To a flask containing tert-butyl 5-cyano-1H-indole-1-carboxylate INT-65 (200 mg, 0.73 mmol) was added EtOH (6 mL), hydroxylamine hydrochloride (177 mg, 2.54 mmol) and Na2CO3 (154 mg, 1.45 mmol). The mixture was stirred at 75° C. overnight then concentrated, re-dissolved in DCM and washed with NaHCO3. The combined organic layers were dried over Na2SO4 and concentrated to provide 222 mg of crude tert-butyl 5-(N-hydroxycarbamimidoyl)-1H-indole-1-carboxylate INT-66 as a white solid which was used directly in the next experiment. LCMS-ESI (m/z) calculated for C14H17N3O3: 275.3; found 276.1 [M+H]+, tR=2.25 min.

reactant | tert-butyl 5-cyano-1H-indole-1-carboxylate | C(#N)C=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C14H14N2O2
reactant | hydroxylamine hydrochloride | 2.54 mmol, 177 mg | Cl.NO
reactant | Na2CO3 | 1.45 mmol, 154 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 6 mL | CCO | C2H6O
product | tert-butyl 5-(N-hydroxycarbamimidoyl)-1H-indole-1-carboxylate | 222 mg | ONC(=N)C=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C14H17N3O3
